US07795247B2
Step 2: methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate in 1,4-dioxane (0.15 M) was added Na2CO3 (6 eq, 2 M solution), (2-formylphenyl)boronic acid (1.5 eq) and bis(triphenylphosphine)palladium(II) dichloride (0.2 eq) and the mixture heated at reflux for 45 min. The reaction mixture was allowed to cool and filtered. The filtrate was diluted with EtOAc and the organic phase washed with H2O, brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude material was purified by flash chromatography (1:9 EtOAc/PE) to afford the title compound as a yellow solid (53%); MS (ES+) m/z 476 (M+H)+

reactant | methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(=O)OC(C)(C)C | C22H28BrNO4
reactant | Na2CO3 | 2 M, 6 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (2-formylphenyl)boronic acid | 1.5 eq | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
solvent | 1,4-dioxane | 0.15 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate | 53% | C(C)(C)(C)OC(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=O)=O | C29H33NO5
